US07816371B2
e. (2R)-3-(tert-Butyldimethylsilyloxy)-2-(5-(2-(3,4-dichlorophenyl)propanamido)-1-oxoisoquinolin-2-(1H)-yl)-N-methylpropanamide
A mixture of (2R)-methyl 3-(tert-butyldimethylsilyloxy)-2-(5-(2-(3,4-dichlorophenyl)propanamido)-1-oxoisoquinolin-2(1H)-yl)propanoate (200 mg, 0.0003 mol), 5 mL of methylamine and tetrahydrofuran (2M) was heated in a sealed tube to 70° C. overnight. The reaction was only partially complete. The solvent was removed and the residue purified by flash chromatography to obtain the product as a light yellow oil. MS m/z=577.4 (M+H).

reactant | (2R)-methyl 3-(tert-butyldimethylsilyloxy)-2-(5-(2-(3,4-dichlorophenyl)propanamido)-1-oxoisoquinolin-2(1H)-yl)propanoate | 0.0003 mol, 200 mg | [Si](C)(C)(C(C)(C)C)OC[C@H](C(=O)OC)N1C(C2=CC=CC(=C2C=C1)NC(C(C)C1=CC(=C(C=C1)Cl)Cl)=O)=O | C28H34Cl2N2O5Si
reactant | methylamine | 5 mL | CN | CH5N
solvent | tetrahydrofuran | 2M | O1CCCC1 | C4H8O
product | (2R)-3-(tert-Butyldimethylsilyloxy)-2-(5-(2-(3,4-dichlorophenyl)propanamido)-1-oxoisoquinolin-2-(1H)-yl)-N-methylpropanamide | [Si](C)(C)(C(C)(C)C)OC[C@H](C(=O)NC)N1C(C2=CC=CC(=C2C=C1)NC(C(C)C1=CC(=C(C=C1)Cl)Cl)=O)=O | C28H35Cl2N3O4Si
